US07968573B2
To a mixture of 2.0 g of 3-chloro-2-(1H-pyrazol-1-yl)pyridine and 100 ml of tetrahydrofuran was added dropwise 6.7 ml of a 2.0 mol/L lithium diisopropylamide solution in heptane/tetrahydrofuran/ethylbenzene at −78° C. The mixture was stirred at −78° C. for 10 minutes, poured into a mixture of dry ice and 50 ml of tetrahydrofuran, and stirred for 0.5 hour with allowing it to rise to around room temperature. After water and diethyl ether were added to the reaction mixture, the aqueous layer was adjusted to pH 10-12 by an addition of a 2N aqueous sodium hydroxide solution and layers were separated. After the aqueous layer was washed with diethyl ether two times, the aqueous layer was adjusted to around pH 3 by an addition of 2N hydrochloric acid, and the mixture was extracted with methyl tert-butyl ether three times. The organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure to obtain 1.22 g of 1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid of the formula:

reactant | 3-chloro-2-(1H-pyrazol-1-yl)pyridine | 2.0 g | ClC=1C(=NC=CC1)N1N=CC=C1 | C8H6ClN3
reactant | lithium diisopropylamide | 2.0 mol/L | C(C)(C)[N-]C(C)C.[Li+]
reactant | dry ice | C(=O)=O | CO2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | heptane tetrahydrofuran ethylbenzene | CCCCCCC.O1CCCC1.C(C)C1=CC=CC=C1
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid | 1.22 g | ClC=1C(=NC=CC1)N1N=CC=C1C(=O)O | C9H6ClN3O2
